US07074798B2
a) 4-[7-(2-Methoxyphenyl)-1-(carboxymethyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
4-[7-(2-Methoxyphenyl)-1-(ethoxycarbonylmethyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (9 mg) was dissolved in ethanol (1 ml), and 5 N sodium hydroxide aqueous solution (0.1 ml) was added thereto. The reaction mixture was left standing at room temperature for 5 hours, and neutralized with 1 N hydrochloric acid. The reaction mixture was extracted with ethyl acetate, the organic layer was dried over anhydrous magnesium sulfate, and was filtered. The filtrate was concentrated under reduced pressure to give 3 mg of the title compound.

reactant | 4-[7-(2-Methoxyphenyl)-1-(ethoxycarbonylmethyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 9 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)OC)=O)CC(=O)OCC)=O)C | C26H34N6O7
reactant | sodium hydroxide | 5 N, 0.1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 4-[7-(2-Methoxyphenyl)-1-(carboxymethyl)-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 3 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)OC)=O)CC(=O)O)=O)C | C24H30N6O7
